US05414002
740 mg (2 mmol) of 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid is stirred for 2 hours at 80° C. in 50 ml of ethanol and 20 ml of water with 977 mg of cesium carbonate. After concentration on a rotary evaporator and drying in a desiccator, the mixture is taken up in 50 ml of DMF, combined with 0.2 ml of 2-bromopropane, and heated for 8 hours to 60°-70° C. After concentration, the mixture is chromatographed over silica gel with hexane:acetone=1:1 as the eluent, thus obtaining 340 mg of 5-benzyloxy-4-methoxymethyl-βcarboline-3-carboxylic acid isopropyl ester having the above-mentioned melting point.

reactant | 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid | 2 mmol, 740 mg | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3NC2=CC=C1)C(=O)O)COC | C21H18N2O4
reactant | water | 20 ml | O | H2O
reactant | cesium carbonate | 977 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 5-benzyloxy-4-methoxymethyl-βcarboline-3-carboxylic acid isopropyl ester | 340 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1 | C24H24N2O4
